US07943748B2
(2) Synthesis of 5-Methoxybenzo[b]thiophene
Under a nitrogen atmosphere, polyphosphoric acid (10 g) was added to anhydrous chlorobenzene (150 ml). To the resulting mixture, 1-(2,2-dimethoxyethylsulfanyl)-4-methoxybenzene (5.2 g, 22.7 mmol) was added under refluxing over 1.5 hours and the reaction mixture was heated to reflux overnight. The reaction was cooled to room temperature, and then the organic layer was separated. To the polyphosphoric acid layer, water was added and the obtained solution was extracted with methylene chloride. All organic layers thus obtained were washed with water and a saturated sodium chloride aqueous solution and dried with sodium sulfate. After filtration, the solvent was distilled under reduced pressure, and the obtained residue was purified by silica gel column chromatography [developing solution=ethyl acetate:n-hexane (1:40)] to obtain the title compound (1.1 g, 30%).

reactant | 1-(2,2-dimethoxyethylsulfanyl)-4-methoxybenzene | 22.7 mmol, 5.2 g | COC(CSC1=CC=C(C=C1)OC)OC | C11H16O3S
solvent | chlorobenzene | 150 ml | ClC1=CC=CC=C1 | C6H5Cl
product | 5-Methoxybenzo[b]thiophene | 1.1 g, 30% | COC1=CC2=C(SC=C2)C=C1 | C9H8OS
